US07491714B2
A mixture of {3-[(R)-2-hydroxy-2-(6-methoxy-quinolin-4-yl)-ethylamino]-propyl}-methyl-carbamic acid dimethyl-ethyl ester (830 mg, 2.1 mmol), 4 (dimethylamino)pyridine (DMAP) (329 mg, 2.66 mmol), 1,1′-carbonyldiimidazole (CDI) (454 mg, 2.77 mmol) and methylene chloride stabilized over amylene (20 ml) was stirred under argon, at room temperature, for 4 days. The solution was washed with water, dried over magnesium sulfate and concentrated. The residue was chromatographed on silicagel eluting with methylene chloride-methanol (95-5) to give {3-[(R)-5-(6-methoxy-quinolin-4-yl)-2-oxo-oxazolidin-3-yl]-propyl}-methyl-carbamic acid dimethyl-ethyl ester (770 mg, 88%).

reactant | {3-[(R)-2-hydroxy-2-(6-methoxy-quinolin-4-yl)-ethylamino]-propyl}-methyl-carbamic acid dimethyl-ethyl ester | 2.1 mmol, 830 mg | CC(C)(C)OC(N(C)CCCNC[C@@H](C1=CC=NC2=CC=C(C=C12)OC)O)=O | C21H31N3O4
reactant | (dimethylamino)pyridine | 2.66 mmol, 329 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1,1′-carbonyldiimidazole | 2.77 mmol, 454 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | amylene | 20 ml | CC=C(C)C | C5H10
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | {3-[(R)-5-(6-methoxy-quinolin-4-yl)-2-oxo-oxazolidin-3-yl]-propyl}-methyl-carbamic acid dimethyl-ethyl ester | 770 mg, 88% | CC(C)(C)OC(N(C)CCCN1C(O[C@@H](C1)C1=CC=NC2=CC=C(C=C12)OC)=O)=O | C22H29N3O5
